US07405305B2
2-[1-(1-Benzylpiperidin-4-yl)-1H-indol-3-yl]acetamide
Dissolve trimethylsilyl chloride (2.1 mL, 6 eq) and sodium iodide (2.5 g, 6 eq) in acetronitrile (15 mL) and cool to 0° C. while under nitrogen. Dissolve 2-[1-(1-benzylpiperidin-4-yl)-1H-indol-3-yl]-2-hydroxyacetamide (1.0 g, 2.75 mmol) in acetonitrile (10 mL) and add dropwise to the reaction. Let stir overnight and gradually warm to room temperature. Extract with 5% NaHSO3 against ethyl acetate then wash with brine. Basify aqueous layer with saturated sodium bicarbonate and wash with ethyl acetate once more. Combine organic layers and dry over magnesium sulfate. Filter and concentrate. Triturate from hot diethyl ether to afford product (0.64 g, 67%) as a white solid. MS (ES, m/z): 348.0 (M+1).

reactant | trimethylsilyl chloride | 2.1 mL, 6 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 2.5 g, 6 eq | [I-].[Na+]
reactant | 2-[1-(1-benzylpiperidin-4-yl)-1H-indol-3-yl]-2-hydroxyacetamide | 2.75 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C=C(C2=CC=CC=C12)C(C(=O)N)O | C22H25N3O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-[1-(1-Benzylpiperidin-4-yl)-1H-indol-3-yl]acetamide | 0.64 g, 67% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=C(C2=CC=CC=C12)CC(=O)N | C22H25N3O
